US08604029B2
(h) 2-{2-[4-(4-Methyl-piperazin-1-yl)-phenyl]-indolizin-3-yl}-2-oxo-N-phenyl-acetamide
The starting material can be prepared from the compound of Reference Example 297, [2-(4-bromo-phenyl)-indolizin-3-yl]-oxo-acetyl chloride, and aniline. Step 1 describes a Buchwald reaction, e.g. with N-methylpiperazine, bis(triphenylphosphine) palladium(II) dichloride, cesium carbonate and DMF/toluene at 100° C.

reactant | [2-(4-bromo-phenyl)-indolizin-3-yl]-oxo-acetyl chloride | BrC1=CC=C(C=C1)C=1C=C2C=CC=CN2C1C(C(=O)Cl)=O | C16H9BrClNO2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | bis(triphenylphosphine) palladium(II) dichloride | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | DMF toluene | CN(C)C=O.C1(=CC=CC=C1)C
product | 2-{2-[4-(4-Methyl-piperazin-1-yl)-phenyl]-indolizin-3-yl}-2-oxo-N-phenyl-acetamide | CN1CCN(CC1)C1=CC=C(C=C1)C=1C=C2C=CC=CN2C1C(C(=O)NC1=CC=CC=C1)=O | C27H26N4O2
